US07273865B2
(1S,4S)-2-Oxa-5-aza-bicyclo [2.2.1]heptane-5-carboxylic acid (7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)-amide
From (7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)-carbamic acid phenyl ester with (1S,4S)-2-oxa-5-aza-bicyclo[2.2.1]heptane trifluoroacetate and N,N-diisopropylethylamine in dichloroethane and tetrahydrofuran. ES-MS m/e (%): 392 (M+H+, 100).

reactant | (7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC=1SC=2C(=NC=C(C2N1)OC)N1CCOCC1)=O | C18H18N4O4S
reactant | (1S,4S)-2-oxa-5-aza-bicyclo[2.2.1]heptane trifluoroacetate | FC(C(=O)O)(F)F.[C@@H]12OC[C@@H](NC1)C2
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (1S,4S)-2-Oxa-5-aza-bicyclo [2.2.1]heptane-5-carboxylic acid (7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)-amide | COC=1C2=C(C(=NC1)N1CCOCC1)SC(=N2)NC(=O)N2[C@@H]1CO[C@H](C2)C1 | C17H21N5O4S
